US04046900
18.7 g of 1acetylisonipecotoyl chloride, Example 1(b) are added slowly to a stirred mixture of 40.0 g of m-dimethoxybenzene and 19.2 g of aluminum chloride in 75 ml of carbon disulfide. The reaction mixture is stirred at ambient temperature for an hour, poured into ice-water and extracted with chloroform, the combined extracts are dried and the chloroform is removed, leaving a yellow oil. The oil is triturated with ether to give a white solid, which is recrystallized twice from ethyl acetate to give the pure solid, mp 132°-134° C., 1-acetyl-4-(2,4-dimethoxybenzoyl)piperidine.

reactant | 1acetylisonipecotoyl chloride | 18.7 g | C(C)(=O)N1CCC(C(=O)Cl)CC1 | C8H12ClNO2
reactant | m-dimethoxybenzene | 40.0 g | COC1=CC(=CC=C1)OC | C8H10O2
reactant | aluminum chloride | 19.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | carbon disulfide | 75 ml | C(=S)=S | CS2
product | 1-acetyl-4-(2,4-dimethoxybenzoyl)piperidine | C(C)(=O)N1CCC(CC1)C(C1=C(C=C(C=C1)OC)OC)=O | C16H21NO4
